US07425641B2
c. 5-[1-(pyrrolidin-1-yl-carbonyl)-cyclopropyl]-2-chloro-aniline
1.8 g (8.14 mmol) of 5-[1-(pyrrolidin-1-yl-carbonyl)-cyclopropyl]-2-chloro-nitrobenzene are dissolved in 30 ml of ethyl acetate and 30 ml of ethanol and after the addition of 0.8 g palladium on active charcoal (10%) hydrogenated for 3 hours at ambient temperature with hydrogen. Then the catalyst is filtered off and the filtrate is evaporated down.

reactant | 5-[1-(pyrrolidin-1-yl-carbonyl)-cyclopropyl]-2-chloro-nitrobenzene | 8.14 mmol, 1.8 g | N1(CCCC1)C(=O)C1(CC1)C=1C=CC(=C(C1)[N+](=O)[O-])Cl | C14H15ClN2O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 0.8 g | [Pd] | Pd
product | 5-[1-(pyrrolidin-1-yl-carbonyl)-cyclopropyl]-2-chloro-aniline | N1(CCCC1)C(=O)C1(CC1)C=1C=CC(=C(N)C1)Cl | C14H17ClN2O
